US07414060B2
3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide
The title compound, was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide in accordance with the general method of example 20 using 3-Bromo-5-fluoropyridine instead of 3-bromopyridine to yield the final compound as a yellow solid, MS (ISP): m/e=370.1 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide | C1(CC1)C=1N=C(SC1)NC(=O)C1=NC(=CC=C1N)C | C13H14N4OS
reactant | 3-Bromo-5-fluoropyridine | BrC=1C=NC=C(C1)F | C5H3BrFN
product | 3-(5-Fluoro-pyridin-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (4-cyclopropyl-thiazol-2-yl)-amide | C1(CC1)C=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC=1C=NC=C(C1)F)C | C18H16FN5OS
